US07601742B2
3.1 Preparation of N-{3-[4-(3-cyclopentyloxy-4-methoxyphenyl)-2-oxo-pyrrolidin-1-yl]-phenyl}-3-dimethylaminobenzamide
A mixture of carboxylic acid (0.02 mmol), diisopropylethylamine (0.04 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC) (0.024 mmol, 1.2 eq) in dry THF was stirred for 20 min before the addition of 1-(3-aminophenyl)-4-(3-cyclopentyloxy-4-methoxyphenyl)pyrrolidin-2-one (0.02 mmol). The reaction mixture was then stirred for 30 h. Concentration under reduced pressure and purification by column chromatography on silica gel gave the desired product.

reactant | diisopropylethylamine | 0.04 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.024 mmol, 1.2 eq | Cl.CN(CCCN=C=NCC)C
reactant | 1-(3-aminophenyl)-4-(3-cyclopentyloxy-4-methoxyphenyl)pyrrolidin-2-one | 0.02 mmol | NC=1C=C(C=CC1)N1C(CC(C1)C1=CC(=C(C=C1)OC)OC1CCCC1)=O | C22H26N2O3
reactant | THF | C1CCOC1 | C4H8O
product | N-{3-[4-(3-cyclopentyloxy-4-methoxyphenyl)-2-oxo-pyrrolidin-1-yl]-phenyl}-3-dimethylaminobenzamide | C1(CCCC1)OC=1C=C(C=CC1OC)C1CC(N(C1)C=1C=C(C=CC1)NC(C1=CC(=CC=C1)N(C)C)=O)=O | C31H35N3O4
